US05155113
Preparation of 5-chloro-2,4-di(3-methylbenzoyloxy)pyridine
The general procedure of Example 5 was followed using 2.00 g of 5-chloro-4-hydroxy-2-pyridone and 3.00 g of 3-methylbenzoyl chloride, thereby producing 1.64 g of the title compound in a yield of 32%.

reactant | 5-chloro-4-hydroxy-2-pyridone | 2.00 g | ClC=1C(=CC(NC1)=O)O | C5H4ClNO2
reactant | 3-methylbenzoyl chloride | 3.00 g | CC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO
product | 5-chloro-2,4-di(3-methylbenzoyloxy)pyridine | 1.64 g, yield of 32% | ClC=1C(=CC(=NC1)OC(C1=CC(=CC=C1)C)=O)OC(C1=CC(=CC=C1)C)=O | C21H16ClNO4
